US08039490B2
4-(Hydroxy-thiophen-2-yl-methyl)-piperidine-1-carboxylic acid tert-butyl ester
From thiophene (130 mg) and 4-formyl-piperidine-1-carboxylic acid tert-butyl ester (300 mg) by procedure D. Yield: 167 mg (40%). Yellow oil. MS (m/z): 298.1 ([M+H]+).

reactant | thiophene | 130 mg | S1C=CC=C1 | C4H4S
reactant | 4-formyl-piperidine-1-carboxylic acid tert-butyl ester | 300 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
product | 4-(Hydroxy-thiophen-2-yl-methyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C=1SC=CC1)O | C15H23NO3S
